US06326369B1
N-[8-(2-Ethoxycarbonyl-4,5,6,7-tetramethoxyindan-2-yl)octanoyl]morpholine
A THF (4.0 ml) suspension of 8-(2-ethoxycarbonyl-4,5,6,7-tetramethoxyindan-2-yl)octanoic acid (114 mg, 0.252 mmols), morpholine (0.110 ml, 1.26 mmols), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (96.6 mg, 0.504 mmols) and 1-hydroxybenzotriazole monohydrate (77.2 mg, 0.504 mmols) was stirred at room temperature for 12 hours. The reaction mixture was concentrated in vacuo, to which was added water. Then, this was extracted with ethyl acetate, and the organic layer was washed with water and a saturated aqueous sodium chloride solution, and then dried. The solvent was evaporated out, and the resulting crude product was purified by silica gel column chromatography (hexane:ethyl acetate=4:1 to 1:1) to obtain the entitled compound (123 mg) as an oil.

reactant | 8-(2-ethoxycarbonyl-4,5,6,7-tetramethoxyindan-2-yl)octanoic acid | 0.252 mmols, 114 mg | C(C)OC(=O)C1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)CCCCCCCC(=O)O | C24H36O8
reactant | morpholine | 1.26 mmols, 0.110 ml | N1CCOCC1 | C4H9NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.504 mmols, 96.6 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 0.504 mmols, 77.2 mg | O.ON1N=NC2=C1C=CC=C2
solvent | THF | 4.0 ml | C1CCOC1 | C4H8O
product | N-[8-(2-Ethoxycarbonyl-4,5,6,7-tetramethoxyindan-2-yl)octanoyl]morpholine | 123 mg | C(C)OC(=O)C1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)CCCCCCCC(=O)N1CCOCC1 | C28H43NO8
